US09254283B2
Adenosine Receptor Binding Activity
To 100 μl of the purified cell suspension, 80 μL of tritium-labeled CGS-21680 {3H-2-[p-(2-carboxyethyl)phenethylamino]-5′-(N-ethylcarbox amido)adenosine: 40 Ci/mmol; New England Nuclear [The Journal of Pharmacology and Experimental Therapeutics, Vol. 251, p. 888, 1989]} (final concentration of 6.0 mmol/L), and 20 μL of the test compound solution (dimethylsulfoxide solution of test compound diluted with Tris HCl buffer) are added. The mixture is allowed to stand at 25° C. for 120 minutes, followed by rapid suction filtration using glass-fiber filter paper (GF/C; Whatman), and then immediately washed three times with 200 μL of ice-cooled Tris HCl buffer (50 mmol/L). The glass-fiber filter paper is then placed in a vial, and MicroScinti liquid (PKI) is added. Then, the radioactivity is measured with a TopCount (PerkinElmer).

reactant | CGS-21680 | CCNC(=O)[C@@H]1[C@H]([C@H]([C@@H](O1)N2C=NC3=C2N=C(N=C3N)NCCC=4C=CC(=CC4)CCC(=O)O)O)O | C23H29N7O6
reactant | Tris HCl | C(C(CO)(CO)N)O.Cl
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | Adenosine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O4
